### PR TITLE
[Merged by Bors] - feat(Mathlib/Analysis/Polynomial/MahlerMeasure): Mahler Measure for other rings

### PR DESCRIPTION
**Pull request by khwilson**
Define `mahlerMeasure'` which allows you specify a norm preserving map `v` from any `NormedRing A` (or more general) to `ℂ`. Also provide wrappers around the main `mahlerMeasure` lemmas that are used for estimation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 1]
```diff
@@ -326,3 +326,111 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+polynomials with coefficients in subrings of `ℂ`. To do so, we introduce `mahlerMeasure'`. This
+takes a `RingHom A ℂ` which takes the polynomial from `A[X]` to `ℂ[X]`.
+
+Some lemmas require the `RingHom` to also preserve the norm on the base ring, e.g.,
+`leadingCoeff_le_mahlerMeasure'`. Those will come below.
+-/
+
+namespace Polynomial
+
+variable {A F : Type*} [Semiring A] (p : A[X]) (v : RingHom A ℂ)
```
Comment (plp127) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Did you know there is notation for this
```suggestion
variable {A F : Type*} [Semiring A] (p : A[X]) (v : A →+* ℂ)
```
You should use the notation

Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: I did, just forgot to clean it up here :-)

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 2]
```diff
@@ -234,7 +234,7 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
 lemma one_le_prod_max_one_norm_roots (p : ℂ[X]) : 1 ≤ (p.roots.map (fun a ↦ max 1 ‖a‖)).prod := by
   grind [Multiset.one_le_prod, Multiset.mem_map]
 
-lemma leading_coeff_le_mahlerMeasure (p : ℂ[X]) : ‖p.leadingCoeff‖ ≤ p.mahlerMeasure := by
+lemma leadingCoeff_le_mahlerMeasure (p : ℂ[X]) : ‖p.leadingCoeff‖ ≤ p.mahlerMeasure := by
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean:245]: This should be renamed, but a deprecation should also be added https://leanprover-community.github.io/contribute/style.html#deprecation

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 3]
```diff
@@ -326,3 +326,111 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+
+noncomputable def mahlerMeasure' := (p.map v).mahlerMeasure
+
+lemma mahlerMeasure'_mul (f g : A[X]) :
+    (f * g).mahlerMeasure' v = (f.mahlerMeasure' v) * (g.mahlerMeasure' v) := by
+  unfold mahlerMeasure'
+  rw [Polynomial.map_mul, mahlerMeasure_mul]
+
+lemma mahlerMeasure'_nonneg : 0 ≤ p.mahlerMeasure' v := by
+  exact Polynomial.mahlerMeasure_nonneg _
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
lemma mahlerMeasure'_nonneg : 0 ≤ p.mahlerMeasure' v :=
  Polynomial.mahlerMeasure_nonneg _
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 4]
```diff
@@ -326,3 +326,111 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+  · simp [hp, mahlerMeasure'_nonneg]
+  · have := calc ‖v p.leadingCoeff‖ = ‖p.leadingCoeff‖ := (norm_map v p.leadingCoeff)
+      _ ≠ 0 := (not_iff_not.mpr norm_eq_zero).mpr hp
+    have : v p.leadingCoeff ≠ 0 := by exact (not_iff_not.mpr norm_eq_zero).mp this
+    have : (v p.leadingCoeff) = (p.map v).leadingCoeff := by
+      exact (leadingCoeff_map_of_leadingCoeff_ne_zero (R := A) (S := ℂ) v this).symm
+    calc ‖p.leadingCoeff‖ = ‖v p.leadingCoeff‖ := (norm_map v p.leadingCoeff).symm
+      _ = ‖(p.map v).leadingCoeff‖ := by rw [this]
+      _ ≤ (p.map v).mahlerMeasure := by exact leadingCoeff_le_mahlerMeasure _
+      _ = p.mahlerMeasure' v := by rfl
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Some of these are a matter of taste so feel free to use your discretion (I'm not a mathlib reviewer/maintainer). I prefer:
```suggestion
  · have : (v p.leadingCoeff) = (p.map v).leadingCoeff := by
      refine leadingCoeff_map_of_leadingCoeff_ne_zero (R := A) (S := ℂ) v ?_ |>.symm
      exact (not_iff_not.mpr norm_eq_zero).mp
        (by simp [norm_map v p.leadingCoeff, (not_iff_not.mpr norm_eq_zero).mpr hp])
    grw [(norm_map v p.leadingCoeff).symm, this, leadingCoeff_le_mahlerMeasure, mahlerMeasure']
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 5]
```diff
@@ -326,3 +326,111 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+  apply hp
+  have hinj : Function.Injective (v : A → ℂ) := (IsometryClass.isometry v).injective
+  ext i
+  simp only [Polynomial.coeff_zero]
+  have hi : (Polynomial.map v p).coeff i = (0 : ℂ) := by
+    have : Polynomial.map v p = (0 : ℂ[X]) := h
+    rw [this]
+    exact Polynomial.coeff_zero i
+  rw [Polynomial.coeff_map] at hi
+  exact hinj (by simpa using hi)
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
  refine mahlerMeasure_pos_of_ne_zero fun h ↦ ?_
  apply hp
  ext i
  have := h ▸ Polynomial.coeff_zero i
  exact (IsometryClass.isometry v).injective (by simpa using this)
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 6]
```diff
@@ -326,3 +326,111 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+      _ = ‖(p.map v).leadingCoeff‖ := by rw [this]
+      _ ≤ (p.map v).mahlerMeasure := by exact leadingCoeff_le_mahlerMeasure _
+      _ = p.mahlerMeasure' v := by rfl
+
+variable {p} in
+lemma Monic.one_le_mahlerMeasure' [NormOneClass A] (hp : p.Monic) :
+    1 ≤ p.mahlerMeasure' v := by
+  calc 1 = ‖(1 : A)‖ := norm_one.symm
+    _ = ‖p.leadingCoeff‖ := by rw [hp.leadingCoeff]
+    _ ≤ p.mahlerMeasure' v := p.leadingCoeff_le_mahlerMeasure' _
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
  grw [← p.leadingCoeff_le_mahlerMeasure' _, hp.leadingCoeff, norm_one]
```

Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Ah, thanks for pointing out grw can handle this.

**Comment by khwilson** [comment]
Thanks for the simplicifications!

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 2 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean:245]: Thanks! Fixed. :-)

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 7]
```diff
@@ -326,3 +329,101 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+theorem norm_coeff_le_choose_mul_mahlerMeasure' (n : ℕ) (p : A[X]) :
+    ‖p.coeff n‖ ≤ (p.natDegree).choose n * p.mahlerMeasure' v := by
+  have hinj : Function.Injective (v : A → ℂ) := (IsometryClass.isometry v).injective
+  calc ‖p.coeff n‖
+      = ‖v (p.coeff n)‖ := (norm_map v _).symm
+    _ = ‖(p.map (↑v : A →+* ℂ)).coeff n‖ := by simp
+    _ ≤ ((p.map (↑v : A →+* ℂ)).natDegree).choose n * (p.map v).mahlerMeasure :=
+      norm_coeff_le_choose_mul_mahlerMeasure n _
+    _ = (p.natDegree).choose n * p.mahlerMeasure' v := by
+      rw [natDegree_map_eq_of_injective hinj, mahlerMeasure']
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Again this is a matter of taste so feel free to ignore, but I personally think reading this/tracing through it is easier than reading/tracing through a calc block
```suggestion
  have : ‖v (p.coeff n)‖ = ‖(p.map (↑v : A →+* ℂ)).coeff n‖ := by simp
  grw [← norm_map v, this, norm_coeff_le_choose_mul_mahlerMeasure,
    natDegree_map_eq_of_injective hinj, mahlerMeasure']
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 8]
```diff
@@ -326,3 +329,101 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+namespace Polynomial
+
+variable {A F : Type*} [Semiring A] (p : A[X]) (v : A →+* ℂ)
+
+noncomputable def mahlerMeasure' := (p.map v).mahlerMeasure
+
+lemma mahlerMeasure'_mul (f g : A[X]) :
+    (f * g).mahlerMeasure' v = (f.mahlerMeasure' v) * (g.mahlerMeasure' v) := by
+  unfold mahlerMeasure'
+  rw [Polynomial.map_mul, mahlerMeasure_mul]
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
  simp [mahlerMeasure', mahlerMeasure_mul]
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 9]
```diff
@@ -326,3 +329,101 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+    1 ≤ p.mahlerMeasure' v := by
+  grw [← p.leadingCoeff_le_mahlerMeasure' _, hp.leadingCoeff, norm_one]
+
+variable {p} in
+theorem mahlerMeasure'_pos_of_ne_zero (hp : p ≠ 0) : 0 < p.mahlerMeasure' v := by
+  refine mahlerMeasure_pos_of_ne_zero fun h ↦ ?_
+  apply hp
+  ext i
+  have := h ▸ Polynomial.coeff_zero i
+  exact (IsometryClass.isometry v).injective (by simpa using this)
```
Comment (vlad902) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
  exact (IsometryClass.isometry v).injective (by simpa)
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 4 above)
Comment (vlad902) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Here's a cleaner version
```suggestion
  · have : v p.leadingCoeff = (p.map v).leadingCoeff := by
      refine leadingCoeff_map_of_leadingCoeff_ne_zero (R := A) (S := ℂ) v ?_ |>.symm
      simp [norm_map, leadingCoeff_ne_zero.mp hp, (not_iff_not.mpr norm_eq_zero).mp]
    grw [← norm_map v, this, leading_coeff_le_mahlerMeasure, mahlerMeasure']
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 7 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: As a new user, I find long strings of `rw`'s impenetrable. But I can see as a seasoned user them being preferred. So I can take your version :-)

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 10]
```diff
@@ -325,3 +328,94 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+-/
+
+namespace Polynomial
+
+variable {A F : Type*} [Semiring A] (p : A[X]) (v : A →+* ℂ)
+
+/-- The Mahler measure for polynomials on rings other than `ℂ`. Most theorems
+will require `A` to be a `NormedRing` and `v` to be an isometry. See, e.g.,
+`mahlerMeasure'_const` -/
+noncomputable def mahlerMeasure' := (p.map v).mahlerMeasure
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: If we're going to have this, I think we should name it like so. The use of primes to disambiguate is discouraged whenever there are better options.
```suggestion
noncomputable def mapMahlerMeasure := (p.map v).mahlerMeasure
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 11]
```diff
@@ -325,3 +328,94 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+section norm
+
+namespace Polynomial
+
+variable {A F : Type*} [NormedRing A] [FunLike F A ℂ] [RingHomClass F A ℂ]
+  [IsometryClass F A ℂ] (p : A[X]) (v : F)
+
+@[simp]
+lemma mahlerMeasure'_const (z : A) : (C z).mahlerMeasure' v = ‖z‖ := by
+  simp [mahlerMeasure']
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Because `mahlerMeasure'` takes a `RingHom` argument `v : A →+* ℂ` (which it *should*, don't get me wrong), by parameterizing these lemmas over `RingHomClass` you are actually making them *less* general. This is because `v : F` is silently coerced in the statement to `↑v : A →+* ℂ` (this coercion is evil, and we are planning to get rid of it, but we need to disentangle the technical debt we've acquired), which means that you would even have trouble applying these lemmas to honest-to-god `RingHom`s!

Instead, you should take `v : A →+* ℂ` and `hv : Isometry v` as your hypotheses.

**Review by j-loreaux — COMMENTED** [review]
I'm not totally convinced we need this, but it's not my area, so I'll review it as if we do and trust you on that, and then let another maintainer have the final say.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 12]
```diff
@@ -325,3 +328,94 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+/-!
+### Mahler Measure on Other Rings
+
+While the Mahler measure is an inherently Complex concept, we often want to work with it for
+polynomials with coefficients in subrings of `ℂ`. To do so, we introduce `mahlerMeasure'`. This
+takes a `RingHom A ℂ` which takes the polynomial from `A[X]` to `ℂ[X]`.
+
+Some lemmas require the `RingHom` to also preserve the norm on the base ring, e.g.,
+`leadingCoeff_le_mahlerMeasure'`. Those will come below.
+-/
```
Comment (kim-em) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean:457]: This docstring will need updating after Jireh's suggestions — it still references `mahlerMeasure'` and `RingHom`.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 13]
```diff
@@ -325,3 +328,94 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+lemma mahlerMeasure'_zero : (0 : A[X]).mahlerMeasure' v = 0 := by
+  simp [mahlerMeasure']
+
+@[simp]
+lemma mahlerMeasure'_one : (1 : A[X]).mahlerMeasure' v = 1 := by
+  simp [mahlerMeasure']
+
+end Polynomial
+
+end generic
```
Comment (kim-em) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Once the `IsometryClass`/`RingHomClass` refactor is done, I think these two sections could be merged into one. The split between "generic" and "norm" becomes just "lemmas that need `hv : Isometry v` vs those that don't," which `variable` scoping handles fine. The section name `norm` is also a bit misleading — `isometry` would be more accurate.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 10 above)
Comment (kim-em) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Consider adding an unfolding lemma:
```lean
lemma mapMahlerMeasure_eq : p.mapMahlerMeasure v = (p.map v).mahlerMeasure := rfl
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 14]
```diff
@@ -325,3 +328,94 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
...
+
+section norm
+
+namespace Polynomial
+
+variable {A F : Type*} [NormedRing A] [FunLike F A ℂ] [RingHomClass F A ℂ]
+  [IsometryClass F A ℂ] (p : A[X]) (v : F)
+
+@[simp]
+lemma mahlerMeasure'_const (z : A) : (C z).mahlerMeasure' v = ‖z‖ := by
```
Comment (kim-em) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: After Jireh's refactor this will have an `hv : Isometry v` hypothesis. `simp` lemmas with non-instance hypotheses don't fire automatically — is `@[simp]` still appropriate here?

**Review by kim-em — COMMENTED** [review]
A few minor suggestions (on top of Jireh's structural ones, which I agree with).

Also: line 221 has a stray semicolon after `by_cases hp : p = 0;`.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 10 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Done

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 13 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Done

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 14 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Fair enough! Can remove the `simp`

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 11 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: This has been changed throughout

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 15]
```diff
@@ -401,3 +406,95 @@ theorem supNorm_le_choose_natDegree_div_two_mul_mahlerMeasure (p : Polynomial 
...
+
+@[simp]
+lemma mapMahlerMeasure_zero : (0 : A[X]).mapMahlerMeasure v = 0 := by
+  simp [mapMahlerMeasure]
+
+@[simp]
+lemma mapMahlerMeasure_one : (1 : A[X]).mapMahlerMeasure v = 1 := by
+  simp [mapMahlerMeasure]
+
+variable {A : Type*} [NormedRing A] (p : A[X]) {v : A →+* ℂ}
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: I suspect you may want `v` to be explicit. If it's implicit, then either:

1. You need Lean to infer what `v` is from the expected type whenever you use any of these theorems, or
2. You have to provide `Isometry _` where the explicit function that appears is of the form "`RingHom` coerced to a function" so that Lean can infer `v` from that.

```suggestion
variable {A : Type*} [NormedRing A] (p : A[X]) (v : A →+* ℂ)
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 16]
```diff
@@ -401,3 +406,95 @@ theorem supNorm_le_choose_natDegree_div_two_mul_mahlerMeasure (p : Polynomial 
...
+
+variable {p} in
+theorem mapMahlerMeasure_pos_of_ne_zero (hv : Isometry v) (hp : p ≠ 0) :
+    0 < p.mapMahlerMeasure v := by
+  refine mahlerMeasure_pos_of_ne_zero fun h ↦ ?_
+  apply hp
+  ext i
+  have hci := h ▸ Polynomial.coeff_zero i
+  simp only [coeff_map] at hci
+  exact Isometry.injective hv (hci.trans (map_zero v).symm)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: untested
```suggestion
  exact hv.injective <| hci.trans (map_zero v).symm
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 17]
```diff
@@ -401,3 +406,95 @@ theorem supNorm_le_choose_natDegree_div_two_mul_mahlerMeasure (p : Polynomial 
...
+lemma leadingCoeff_le_mapMahlerMeasure (hv : Isometry v) :
+    ‖p.leadingCoeff‖ ≤ p.mapMahlerMeasure v := by
+  by_cases hp : p.leadingCoeff = 0
+  · simp [hp, mapMahlerMeasure_nonneg]
+  · have hv_ne : v p.leadingCoeff ≠ 0 :=
+      fun h ↦ hp (Isometry.injective hv (h.trans (map_zero v).symm))
+    have hmap : v p.leadingCoeff = (p.map v).leadingCoeff :=
+      (leadingCoeff_map_of_leadingCoeff_ne_zero (R := A) (S := ℂ) v hv_ne).symm
+    have hv_norm : ‖p.leadingCoeff‖ = ‖v p.leadingCoeff‖ :=
+      (Isometry.norm_map_of_map_zero hv (map_zero v) _).symm
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: untested
```suggestion
      (hv.norm_map_of_map_zero (map_zero v) _).symm
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 18]
```diff
@@ -401,3 +406,95 @@ theorem supNorm_le_choose_natDegree_div_two_mul_mahlerMeasure (p : Polynomial 
...
+
+lemma mapMahlerMeasure_const (hv : Isometry v) (z : A) : (C z).mapMahlerMeasure v = ‖z‖ := by
+  simp [mapMahlerMeasure, Isometry.norm_map_of_map_zero hv (map_zero v)]
+
+lemma leadingCoeff_le_mapMahlerMeasure (hv : Isometry v) :
+    ‖p.leadingCoeff‖ ≤ p.mapMahlerMeasure v := by
+  by_cases hp : p.leadingCoeff = 0
+  · simp [hp, mapMahlerMeasure_nonneg]
+  · have hv_ne : v p.leadingCoeff ≠ 0 :=
+      fun h ↦ hp (Isometry.injective hv (h.trans (map_zero v).symm))
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: untested
```suggestion
      fun h ↦ hp <| hv.injective <| h.trans (map_zero v).symm
```

**Review by j-loreaux — COMMENTED** [review]
maintainer delegate

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 15 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Ah interesting. It was already _explicit_ above, but because all the subsequent theorems require `hv : Isometry v` I thought it was sufficient to drop it. However, happy to undo that :-)

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 16 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Works

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 17 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Works

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 18 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Done.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 19]
```diff
@@ -437,3 +442,91 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure_of_one_le_mahlerMeasure (n : ℕ)
...
+  simp [mapMahlerMeasure, hv.norm_map_of_map_zero (map_zero _)]
+
+lemma leadingCoeff_le_mapMahlerMeasure (hv : Isometry v) :
+    ‖p.leadingCoeff‖ ≤ p.mapMahlerMeasure v := by
+  by_cases hp : p.leadingCoeff = 0
+  · simp [hp, mapMahlerMeasure_nonneg]
+  · have hv_ne : v p.leadingCoeff ≠ 0 :=
+      fun h ↦ hp <| hv.injective <| h.trans (map_zero _).symm
+    have hv_norm : ‖v p.leadingCoeff‖ = ‖p.leadingCoeff‖ := hv.norm_map_of_map_zero (map_zero _) _
+    grw [←hv_norm, ←leadingCoeff_map_of_leadingCoeff_ne_zero v hv_ne,
```
Comment (kim-em) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Nit: missing space after `←`.
```suggestion
    grw [← hv_norm, ← leadingCoeff_map_of_leadingCoeff_ne_zero v hv_ne,
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 20]
```diff
@@ -437,3 +442,91 @@ theorem norm_coeff_le_choose_mul_mahlerMeasure_of_one_le_mahlerMeasure (n : ℕ)
...
+
+variable {p} in
+theorem mapMahlerMeasure_pos_of_ne_zero (hv : Isometry v) (hp : p ≠ 0) :
+    0 < p.mapMahlerMeasure v := by
+  refine mahlerMeasure_pos_of_ne_zero fun h ↦ ?_
+  apply hp
+  ext i
+  have hci := h ▸ Polynomial.coeff_zero i
+  simp only [coeff_map] at hci
+  exact hv.injective <| hci.trans (map_zero v).symm
```
Comment (kim-em) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: I think this can be a one-liner via `map_eq_zero_iff`:
```lean
theorem mapMahlerMeasure_pos_of_ne_zero (hv : Isometry v) (hp : p ≠ 0) :
    0 < p.mapMahlerMeasure v :=
  mahlerMeasure_pos_of_ne_zero <| (map_eq_zero_iff hv.injective).not.mpr hp
```

**Review by kim-em — COMMENTED** [review]
Two more small things.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 19 above)
Comment (khwilson) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Out of curiosity, is there a standard formatter for mathlib? Would make this kind of small change easier to get right :-)

Comment (kim-em) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Coming soon!
